US08247556B2
N-(4,4-Dimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-2-fluoro-nicotinamide (60 mg, 0.201 mmol) was dissolved in NMP (0.5 mL), then C-(1H-pyrazolo[3,4-b]pyridin-4-yl)-methylamine (36 mg, 0.243 mmol) and DIEA (70 μL, 0.401 mmol) were added. The mixture was heated at 120° C. overnight. Additional C-(1H-pyrazolo[3,4-b]pyridin-4-yl)-methylamine (14 mg, 0.094 mmol) and DIEA (35 μL, 0.200 mmol) were added and the mixture was heated at 120° C. overnight. The mixture was partitioned between water and EtOAc. The mixture was diluted with EtOAc then washed with water and brine. The organic layer was dried over MgSO4 and concentrated in vacuo. Purification was achieved by preparative TLC (10% MeOH/CH2Cl2) to give N-(4,4-dimethyl-1,2,3,4-tetrahydro-7-quinolinyl)-2-((1H-pyrazolo[3,4-b]pyridin-4-ylmethyl)amino)-3-pyridinecarboxamide as a yellow solid. MS m/e 428.2(M+H)+. Calc'd for C24H25N7O—427.51.

reactant | N-(4,4-Dimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-2-fluoro-nicotinamide | 0.201 mmol, 60 mg | CC1(CCNC2=CC(=CC=C12)NC(C1=C(N=CC=C1)F)=O)C | C17H18FN3O
reactant | C-(1H-pyrazolo[3,4-b]pyridin-4-yl)-methylamine | 0.243 mmol, 36 mg | N1N=CC=2C1=NC=CC2CN | C7H8N4
reactant | DIEA | 0.401 mmol, 70 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | C-(1H-pyrazolo[3,4-b]pyridin-4-yl)-methylamine | 0.094 mmol, 14 mg | N1N=CC=2C1=NC=CC2CN | C7H8N4
reactant | DIEA | 0.200 mmol, 35 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 0.5 mL | CN1CCCC1=O | C5H9NO
product | N-(4,4-dimethyl-1,2,3,4-tetrahydro-7-quinolinyl)-2-((1H-pyrazolo[3,4-b]pyridin-4-ylmethyl)amino)-3-pyridinecarboxamide | CC1(CCNC2=CC(=CC=C12)NC(=O)C=1C(=NC=CC1)NCC1=C2C(=NC=C1)NN=C2)C | C24H25N7O
